US09358222B2
3-(4-Chloro-phenyl)-3-(3-hydroxy-2,2-dimethyl-propoxy)-2-(4-nitro-benzyl)-2,3-dihydro-isoindol-1-one (NU8353)
The named compound was synthesised from 3-(4-Chlorophenyl)-3-hydroxy-2-(4-nitrobenzyl)-2,3-dihydroisoindol-1-one (400 mg, 1.01 mmol, 1 equiv.) and neopentyl glycol (526 mg, 5.05 mmol, 5 equiv.) using General Procedure A and obtained as an off-white solid (267 mg, 55%). 1H NMR (300 MHz, CDCl3): 8.02-7.98 (m, 2H, O2N—C—CH), 7.96-7.93 (m, 1H, C(O)═C═CH), 7.58-7.55 (m, 2H, Ar—H), 7.32-7.28 (m, 2H, Ar—H), 7.15-7.12 (m, 5 H, Ar—H), 4.58 and 4.44 (dd: AB, J=15.3 Hz, 2H, N—CH2), 3.39 (s, 2H, HO—CH2), 2.78 and 2.63 (dd: AB, J=8.7 Hz, 2H, N—CH2), 0.83 (d, J=3.9 Hz, CH3). 13C NMR (75 MHz, CDCl3): 168.30, 147.33, 145.19, 144.60, 137.31, 134.90, 133.08, 131.64, 130.17, 129.85, 128.61, 127.95, 123.81, 123.23, 123.16, 94.54, 69.57, 69.02, 42.42, 36.41, 21.75. m/z (ES): 481 [M+H]+.

reactant | 3-(4-Chlorophenyl)-3-hydroxy-2-(4-nitrobenzyl)-2,3-dihydroisoindol-1-one | 1.01 mmol, 400 mg, 1 equiv. | ClC1=CC=C(C=C1)C1(N(C(C2=CC=CC=C12)=O)CC1=CC=C(C=C1)[N+](=O)[O-])O | C21H15ClN2O4
reactant | neopentyl glycol | 5.05 mmol, 526 mg, 5 equiv. | OCC(C)(CO)C | C5H12O2
product | 3-(4-Chloro-phenyl)-3-(3-hydroxy-2,2-dimethyl-propoxy)-2-(4-nitro-benzyl)-2,3-dihydro-isoindol-1-one | 267 mg, 55% | ClC1=CC=C(C=C1)C1(N(C(C2=CC=CC=C12)=O)CC1=CC=C(C=C1)[N+](=O)[O-])OCC(CO)(C)C | C26H25ClN2O5
